US09034866B2
Synthesis of ethyl 4-hydroxy-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate
Silver nitrate (0.3 g, 2.00 equiv) was added to a stirred solution of ethyl 4-bromo-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate (400 mg, 0.86 mmol, 1.00 equiv) in acetone (20 mL)/water (20 mL) was added. The resulting mixture was stirred for 12 hours at room temperature, diluted with water, extracted with ethyl acetate, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was purified by a silica gel column with ethyl acetate/petroleum ether (1:3) to give 0.12 g (35%) of the titled compound as a white solid. LC-MS (ES, m/z) 401[M+H]+.

reactant | ethyl 4-bromo-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 0.86 mmol, 400 mg, 1.00 equiv | BrC1C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC | C14H12BrIN2O3
reactant | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
catalyst | Silver nitrate | 0.3 g, 2.00 equiv | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 20 mL | O | H2O
product | ethyl 4-hydroxy-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxylate | 0.12 g, 35% | OC1C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)OCC | C14H13IN2O4
